US09024027B2
A mixture of (S)-4-(2-(2-(5-(benzyloxy)-1H-indol-1-yl)acetoxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide (155 mg, 0.227 mmol) and 5% Pd/BaSO4 dry powder (type D1863 Chimet spa) (290 mg, 0.136 mmol) in 20 ml of EtOH was hydrogenated for 5 hours at 50 psi. The catalyst was filtered off, solvent was evaporated and the crude was purified by flash chromatography on silica gel (DCM/MeOH from 99.5:0.5 to 99:1) affording (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(5-hydroxy-1H-indol-1-yl)acetoxy)ethyl)pyridine 1-oxide (41.8 mg, 0.070 mmol, 31% yield). MS/ESI+ 593.18 [MH]+, [αD]=+30.50, c=0.6 in DCM; 1H NMR (300 MHz, DMSO-d6) δ ppm 8.67 (s, 1H) 8.54 (s, 2H) 7.12-7.19 (m, 2H) 6.99 (d, 1H) 6.93 (d, 1H) 6.91 (dd, 1H) 6.85 (d, 1H) 7.05 (t, 1H) 6.61 (dd, 1H) 6.24 (dd, 1H) 6.01 (dd, 1H) 5.13 (d, 1H) 4.94 (d, 1H) 3.84 (d, 2H) 3.42 (dd, 1H) 3.20 (dd, 1H) 1.11-1.31 (m, 1H) 0.51-0.66 (m, 2H) 0.27-0.44 (m, 2H)

reactant | (S)-4-(2-(2-(5-(benzyloxy)-1H-indol-1-yl)acetoxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide | 0.227 mmol, 155 mg | C(C1=CC=CC=C1)OC=1C=C2C=CN(C2=CC1)CC(=O)O[C@@H](CC1=C(C=[N+](C=C1Cl)[O-])Cl)C1=CC(=C(C=C1)OC(F)F)OCC1CC1 | C35H30Cl2F2N2O6
catalyst | Pd BaSO4 | [Pd].[O-]S(=O)(=O)[O-].[Ba+2]
product | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(5-hydroxy-1H-indol-1-yl)acetoxy)ethyl)pyridine 1-oxide | 0.070 mmol, 41.8 mg, 31% yield | ClC=1C=[N+](C=C(C1C[C@H](OC(CN1C=CC2=CC(=CC=C12)O)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C28H24Cl2F2N2O6
